US07763731B2
N-[4-(4-Hydroxy-2-nitro-phenylsulfanyl)-phenyl]-acetamide
A mixture of 3-nitro-4-chloro phenol (1.59 g, 8.97 mmol), 4-acetamidothiophenol (2 g, 10.76 mmol) and cesium carbonate (7.0 g, 21.53 mmol) in DMF (20 mL) was heated 2.5 h at 100° C. The mixture was cooled, poured onto ice and the resulting solid is collected by filtration and dried under vacuum the title compound leaving a yellow solid (2.7 g, 100%).

reactant | 3-nitro-4-chloro phenol | 8.97 mmol, 1.59 g | [N+](=O)([O-])C=1C=C(C=CC1Cl)O | C6H4ClNO3
reactant | 4-acetamidothiophenol | 10.76 mmol, 2 g | C(C)(=O)NC1=CC=C(C=C1)S | C8H9NOS
reactant | cesium carbonate | 21.53 mmol, 7.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-[4-(4-Hydroxy-2-nitro-phenylsulfanyl)-phenyl]-acetamide | 2.7 g, 100% | OC1=CC(=C(C=C1)SC1=CC=C(C=C1)NC(C)=O)[N+](=O)[O-] | C14H12N2O4S
